US05780482
A mixture of 4,7-dichloro-1,5-naphthyridine (0.65 g), 4-methoxyaniline (0.40 g) and IMS (25 ml) was boiled under reflux for 5 hours. The mixture was concentrated to approximately 5 ml and then ether added to induce precipitation. Ethyl acetate was added and the solid was collected by filtration to give 7-chloro-4-(4-methoxyanilino)-1,5-naphthyridine hydrochloride hydrate m.p. 230°-233° C.

reactant | 4,7-dichloro-1,5-naphthyridine | 0.65 g | ClC1=CC=NC2=CC(=CN=C12)Cl | C8H4Cl2N2
reactant | 4-methoxyaniline | 0.40 g | COC1=CC=C(N)C=C1 | C7H9NO
product | 7-chloro-4-(4-methoxyanilino)-1,5-naphthyridine hydrochloride hydrate | O.Cl.ClC1=CN=C2C(=CC=NC2=C1)NC1=CC=C(C=C1)OC | InChI=1S/C15H12ClN3O.ClH.H2O/c1-20-12-4-2-11(3-5-12)19-13-6-7-17-14-8-10(16)9-18-15(13)14;;/h2-9H,1H3,(H,17,19);1H;1H2
